US07314936B2
To a solution 5-(3-hydroxy-propenyl)-indole-1-carboxylic acid tert-butyl ester (0.95 mg, 3.48 mmol, 1.0 eq.) and Et3N (1.8 mL, 3.0 eq.) in methylene chloride (10 mL) at 0° C. was added MsCl (0.40 mL, 1.5 eq.). The resulting mixture was stirred for 30 min and wormed to room temperature and stirred for additional 1 h. Then cyclohexyl-methyl-amine (8.3 mL, 18 eq.) was introduced and the resulting mixture was stirred over weekend, diluted with sat. NaHCO3 and the separated aqueous phase was extracted with 3×EtOAc. The combined organic phase was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel chromatography (50% EtOAc/hexanes) to give 5-(3-morpholin-4-3,1-propenyl)-indole-1-carboxylic acid tert-butyl ester or similarly 6-(3-morpholin-4-yl-propenyl)-indole-1-carboxylic acid tert-butyl ester.

reactant | 5-(3-hydroxy-propenyl)-indole-1-carboxylic acid tert-butyl ester | 3.48 mmol, 0.95 mg, 1.0 eq. | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=CCO | C16H19NO3
reactant | Et3N | 1.8 mL, 3.0 eq. | CCN(CC)CC | C6H15N
reactant | MsCl | 0.40 mL, 1.5 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | cyclohexyl-methyl-amine | 8.3 mL, 18 eq. | C1(CCCCC1)NC | C7H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-(3-morpholin-4-yl-propenyl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)C=CCN1CCOCC1 | C20H26N2O3
